US05538997
d) 4(S) -tert-Butoxycarbonylamino-3(S)-hydroxy-2(R)-(4-methoxybenzylamino)-5-phenyl-pentanoic acid (formula II)
9 g of 4(S)-tert-butoxycarbonylamino-3(S)-hydroxy-2(R)-(4-methoxybenzylamino)-5-phenyl-pentanoic acid ethylester are dissolved in 300 ml of tetrahydrofuran and 22 ml of 1 N aqueous sodium hydroxide solution are added. The reaction mixture is stirred for 16 hours at room temperature and diluted with 300 ml of water. Tetrahydrofuran is evaporated and the aqueous solution is washed with ethyl acetate. Acidification with 1N HCl leads to a white precipitate which is filtered off and dried (m.p.: 203°-206°).

reactant | 4(S)-tert-butoxycarbonylamino-3(S)-hydroxy-2(R)-(4-methoxybenzylamino)-5-phenyl-pentanoic acid ethylester | 9 g | C(C)OC([C@@H]([C@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O)NCC1=CC=C(C=C1)OC)=O | C26H36N2O6
reactant | sodium hydroxide | 1 N, 22 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | 4(S) -tert-Butoxycarbonylamino-3(S)-hydroxy-2(R)-(4-methoxybenzylamino)-5-phenyl-pentanoic acid | C(C)(C)(C)OC(=O)N[C@H]([C@@H]([C@H](C(=O)O)NCC1=CC=C(C=C1)OC)O)CC1=CC=CC=C1 | C24H32N2O6
